US09382241B2
tert-butyl N-[(3S)-1-(4-aminopyrido[3,2-d]pyrimidin-6-yl)-3-piperidyl]carbamate
To 40 mL screw-cap vials was added 6-chloropyrido[3,2-d]pyrimidin-4-amine (2.00 g, 11.1 mmol) followed by tert-butyl N-[(3S)-3-piperidyl]carbamate (1.1 equiv., 12.2 mmol, 2.44 g) then dimethylacetamide (10 mL) and triethylamine (3 equiv., 33.2 mmol, 4.65 mL). The reaction was capped and shaken at 100° C. for 42 h, then an additional 24 h at 115° C. The reaction was cooled to room temperature, then partitioned with ethyl acetate:water. Residual chloride starting material was removed by filtration. The filtrate phases were separated, and the organics dried over sodium sulfate, filtered and concentrated, yielding 2.53 g of product. 1H NMR (400 MHz, DMSO) δ 8.19-8.13 (s, 1H), 7.81-7.74 (d, J=9.3 Hz, 1H), 7.43-7.39 (d, J=9.1 Hz, 1H), 6.95-6.85 (d, J=6.6 Hz, 1H), 4.32-4.19 (m, 2H), 3.50-3.38 (m, 1H), 3.19-3.04 (m, 1H), 2.96-2.85 (m, 1H), 1.90-1.80 (m, 1H), 1.80-1.67 (m, 1H), 1.60-1.34 (m, 11H). LCMS M/Z (M+H)=345.

reactant | 6-chloropyrido[3,2-d]pyrimidin-4-amine | 11.1 mmol, 2.00 g | ClC=1C=CC=2N=CN=C(C2N1)N | C7H5ClN4
reactant | tert-butyl N-[(3S)-3-piperidyl]carbamate | 12.2 mmol, 2.44 g, 1.1 equiv. | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 33.2 mmol, 4.65 mL, 3 equiv. | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 10 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl N-[(3S)-1-(4-aminopyrido[3,2-d]pyrimidin-6-yl)-3-piperidyl]carbamate | 2.53 g | NC=1C2=C(N=CN1)C=CC(=N2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C17H24N6O2
